US08203003B2
Preparation of (2S,4R)—N-Fmoc-4-fluoropyrrolidine-2-carbonyl fluoride (Ib)
A solution of 4-(tert-butyl)-2,6-dimethylphenylsulfur trifluoride (10.5 mmol) in 5 ml of dichloromethane was added slowly to a stirred solution of (2S,4R)—N-Fmoc-4-fluoropyrrolidine-2-carboxylic acid (7 mmol) in 15 mL of dichloromethane in a fluoropolymer (PFA) reactor cooled on an ice bath. After complete addition, the ice bath was removed and stirred at room temperature for 0.5 h. 19F NMR analysis of the reaction mixture showed that (2S,4R)—N-Fmoc-4-fluoropyrrolidine-2-carbonyl fluoride (Ib) was produced in 97% yield. All the volatiles were removed at reduced pressure, and dichloromethane (2 ml) was added to the residue, followed by the addition of pentane (30 ml). After stirring well, a supernatant liquid was removed and the residue was washed with pentane (25 ml×2). Finally the product (Ib) (1.75 g, 70% yield) was obtained as white powder by dissolving the solid in dichloromethane and precipitating with pentane. 19F-NMR (CDCl3) (a 6:4 mixture of two rotamers) δ 29.69 (s, 0.6 F, COF), 29.39 (s, 0.6 F, COF), −177.05 (m, 0.6 F, CF), −177.99 (m, 0.4 F, CF): 1H-NMR (CDCl3) 8 (as a mixture of rotamers) 2.0-2.9 (m, 2H), 3.4-4.8 (m, 6H), 5.05-5.5 (m, 1H), 7.2-7.9 (m, 8H): 13C-NMR (CDCl3) 8 (as a mixture of two rotamers) δ0.40 (d, J=179.9 Hz, CF), 91.39 (d, J=180.6 Hz, CF), 154.16 (CON), 154.85 (CON), 161.49 (d, J=367.8 Hz, COF): High Resolution Mass/ESI-APCI method (solvent; methanol); (M-F+OCH3+Na)+392.1272 [calcd 392.1269 for (C21H20FNO4+Na)].

reactant | 4-(tert-butyl)-2,6-dimethylphenylsulfur trifluoride | 10.5 mmol | C(C)(C)(C)C1=CC(=C(C(=C1)C)S(F)(F)F)C | C12H17F3S
reactant | (2S,4R)—N-Fmoc-4-fluoropyrrolidine-2-carboxylic acid | 7 mmol | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1[C@@H](C[C@H](C1)F)C(=O)O | C20H18FNO4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2S,4R)—N-Fmoc-4-fluoropyrrolidine-2-carbonyl fluoride | 97% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1[C@@H](C[C@H](C1)F)C(=O)F | C20H17F2NO3
